US05446152
b) Synthesis of 6-chloro-3-[2-(diethylamino)ethyl]-2,3-dihydro-4H-1,3-benzoxazin-4-one
8.00 Grammes (26.1 mmoles) of 5-chloro-N-[2-(diethylamino)ethyl]salicylamide hydrochloride are dissolvedin 100 ml of trifluoroacetic acid with 2.35 grammes (26.1 mmoles) of trioxane and left to react for 20 hours at a temperature of 50° C.

reactant | 5-chloro-N-[2-(diethylamino)ethyl]salicylamide hydrochloride | 26.1 mmoles | Cl.ClC1=CC=C(C(C(=O)NCCN(CC)CC)=C1)O
reactant | trioxane | 26.1 mmoles, 2.35 grammes | O1OOCCC1 | C3H6O3
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-chloro-3-[2-(diethylamino)ethyl]-2,3-dihydro-4H-1,3-benzoxazin-4-one | ClC=1C=CC2=C(C(N(CO2)CCN(CC)CC)=O)C1 | C14H19ClN2O2
